### PR TITLE
[Merged by Bors] - chore: deprecate former interaction of finite intervals and succ/pred lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
Moves:
* `Nat.Icc_succ_left` → `Finset.Icc_succ_left_eq_Ioc`
* `Nat.Ico_succ_right` → `Finset.Ico_succ_right_eq_Icc`
* `Nat.Ico_succ_left` → `Finset.Ico_succ_left_eq_Ioo`
* `Nat.Icc_pred_right` → `Finset.Icc_pred_right_eq_Ico`
* `Nat.Ico_succ_succ` → `Finset.Ico_succ_succ_eq_Ioc`
* `Nat.Ico_succ_right_eq_insert_Ico` → `Finset.insert_Ico_right_eq_Ico_succ_right`
* `Nat.Ico_insert_succ_left` → `Finset.insert_Ico_succ_left_eq_Ico`
* `Nat.Icc_insert_succ_left` → `Finset.insert_Icc_succ_left_eq_Icc`
* `Nat.Icc_insert_succ_right` → `Finset.insert_Icc_eq_Icc_succ_right`

---

- [x] depends on: #22290
- [x] depends on: #23630
- [x] depends on: #24037

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
Please add to the PR description the list of lemmas you are deprecating, and why. Please also add your justification for the large-import.

File: Mathlib/Order/Interval/Finset/Nat.lean [hunk 1]
```diff
@@ -101,34 +99,43 @@ theorem card_fintypeIic : Fintype.card (Set.Iic b) = b + 1 := by
 
 theorem card_fintypeIio : Fintype.card (Set.Iio b) = b := by rw [Fintype.card_ofFinset, card_Iio]
 
--- TODO@Yaël: Generalize all the following lemmas to `SuccOrder`
+@[deprecated "Use `Finset.Icc_succ_left_eq_Ioc`" (since := "2025-02-25")]
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/Nat.lean:102]: The deprecation dates on these look out-of-date.

File: Mathlib/Order/Interval/Finset/Nat.lean [hunk 2]
```diff
@@ -101,34 +99,43 @@ theorem card_fintypeIic : Fintype.card (Set.Iic b) = b + 1 := by
...
 theorem Icc_pred_right {b : ℕ} (h : 0 < b) : Icc a (b - 1) = Ico a b := by
   ext x
   rw [mem_Icc, mem_Ico, lt_iff_le_pred h]
 
+@[deprecated "Use `Finset.Ico_succ_succ_eq_Ioc`" (since := "2025-02-25")]
 theorem Ico_succ_succ : Ico a.succ b.succ = Ioc a b := by
   ext x
   rw [mem_Ico, mem_Ioc, succ_le_iff, Nat.lt_succ_iff]
 
+-- TODO: Decide whether to generalise the following series of lemmas, or delete.
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/Nat.lean:127]: These ones shouldn't be deleted, I'd say the TODO should be to generalise them.

File: Archive/Imo/Imo2024Q1.lean [hunk 3]
```diff
@@ -37,10 +38,10 @@ def solutionSet : Set ℝ := {α : ℝ | ∃ m : ℤ, α = 2 * m}
 lemma condition_two_mul_int (m : ℤ) : Condition (2 * m) := by
   rintro n -
   suffices (n : ℤ) ∣ ∑ i ∈ Finset.Icc 0 n, ⌊((i * (2 * m) : ℤ) : ℝ)⌋ by
-    rw [← Nat.Icc_insert_succ_left n.zero_le, Finset.sum_insert_zero (by norm_num)] at this
+    rw [← insert_Icc_add_one_left_eq_Icc n.zero_le, sum_insert_zero (by norm_num)] at this
     exact_mod_cast this
-  simp_rw [Int.floor_intCast, ← Finset.sum_mul, ← Nat.Ico_succ_right, ← Finset.range_eq_Ico,
-           ← mul_assoc]
+  simp_rw [Int.floor_intCast, ← Finset.sum_mul, ← Finset.Ico_succ_right_eq_Icc,
```
Comment (b-mehta) [inline Archive/Imo/Imo2024Q1.lean:43]:
```suggestion
  simp_rw [Int.floor_intCast, ← Finset.sum_mul, ← Ico_succ_right_eq_Icc,
```

File: Archive/Imo/Imo2024Q1.lean [hunk 4]
```diff
@@ -37,10 +38,10 @@ def solutionSet : Set ℝ := {α : ℝ | ∃ m : ℤ, α = 2 * m}
...
+    ← Finset.range_eq_Ico, ← mul_assoc]
```
Comment (b-mehta) [inline Archive/Imo/Imo2024Q1.lean:44]:
```suggestion
    ← range_eq_Ico, ← mul_assoc]
```

File: Mathlib/Order/Interval/Finset/Nat.lean [hunk 5]
```diff
@@ -139,22 +146,14 @@ lemma mem_Ioc_succ : a ∈ Ioc b (b + 1) ↔ a = b + 1 := by simp
 lemma mem_Ioc_succ' (a : Ioc b (b + 1)) : a = ⟨b + 1, mem_Ioc.2 (by omega)⟩ :=
   Subtype.val_inj.1 (mem_Ioc_succ.1 a.2)
 
+set_option linter.deprecated false in
 theorem Ico_succ_right_eq_insert_Ico (h : a ≤ b) : Ico a (b + 1) = insert b (Ico a b) := by
   rw [Ico_succ_right, ← Ico_insert_right h]
 
+set_option linter.deprecated false in
 theorem Ico_insert_succ_left (h : a < b) : insert a (Ico a.succ b) = Ico a b := by
   rw [Ico_succ_left, ← Ioo_insert_left h]
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/Nat.lean:155]: I assume you're planning to deal with these in a future PR? If so, let's have a TODO here too, and if not let's have a comment explaining the inconsistency.

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:127]: In fact the TODO that you deleted included generalising these!

**Review by b-mehta — COMMENTED** [review]
It looks like there's some annoying stuff here because of imports. Isn't it possible for /Nat to import /SuccPred, rather than the other way round? Then we can view the Nat API as stuff which can be generalised and moved higher up the import tree, and we can use the general lemmas to help prove the Nat ones.

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:127]: > In fact the TODO that you deleted included generalising these!

Yes, I changed my mind since 2021 😉

Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:127]: I do think they should be deleted, because they are the composition of two more fundamental lemmas each time

Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:127]: Except that these ones are currently useful simp lemmas, and the two you're talking about aren't (and probably shouldn't both be) - I'd agree if this one wasn't a simp lemma, but it is, and so the composition argument doesn't really apply.

**Comment by YaelDillies** [comment]
> Isn't it possible for /Nat to import /SuccPred, rather than the other way round?

No, it isn't possible due to a downstream `assert_not_exists`.

Just to make sure we agree on what the issue is: We have a general theory of locally finite orders and a general theory of successor orders. Previously, results mixing the two were only proved on `Nat` and therefore didn't need the successor order theory and were put in the locally finite order theory file for `Nat`. Now that they are deduced from the general locally finite successor order theory, they need to import the successor order theory, but the locally finite order `Nat` file doesn't otherwise need to know about successor orders, it's only because historically the locally finite successor order `Nat` lemmas were there. Therefore:
* The issue will disappear once the deprecated lemmas are gone.
* Either we break deprecations by moving the now deprecated lemmas to a new file (or we straight up delete them, probably not much of a difference for downstream users), or we bite the bullet and have unnecessary import increases for the next six months.

**Comment by b-mehta** [comment]
Okay, that's convincing.

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:155]: or the third option :)

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by YaelDillies** [comment]
@b-mehta, did you forget to submit a review?

**Comment by b-mehta** [comment]
No, I'm waiting for the comment above to be addressed.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
